US06077866
An ethanol solution (100 ml) of 4-chloro-4'-methylsulfinylmethyl benzophenone (5.8 g), ethyl carbazate (6.3 g) and pyridinium p-toluenesulfonate (0.1 g) was heated for 6 hours with refluxing. After cooling to a room temperature, the reaction mixture was poured into ice-water, and the precipitated crystals were collected by filtration, and washed successively with an aqueous sodium bicarbonate solution and water. After air-drying, 4-chloro-4'-methylsulfinylmethylbenzophenone ethoxycarbonylhydrazone (6.4 g) was obtained as an isomer mixture.

reactant | 4-chloro-4'-methylsulfinylmethyl benzophenone | 5.8 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS(=O)C)C=C1 | C15H13ClO2S
reactant | ethyl carbazate | 6.3 g | C(NN)(=O)OCC | C3H8N2O2
catalyst | pyridinium p-toluenesulfonate | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-chloro-4'-methylsulfinylmethylbenzophenone ethoxycarbonylhydrazone | 6.4 g | C(C)OC(=O)NN=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)CS(=O)C | C18H19ClN2O3S
